US03971792
Epoxide Resin B
Diglycidyl ether resin (technical product) manufactured by condensation of hydrogenated diomethane (2,2-bis-(p-hydroxycyclohexyl)-propane) with a stoichiometric excess of epichlorohydrin in the presence of alkali, consisting mainly of hydrogenated diomethane-diglycidal ether of the formula ##EQU5## which is liquid at room temperature and has an epoxide content of 4.46 epoxide equivalents/kg.

reactant | Diglycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
reactant | 2,2-bis-(p-hydroxycyclohexyl)-propane | OC1CCC(CC1)C(C)(C)C1CCC(CC1)O | C15H28O2
reactant | epichlorohydrin | C(Cl)C1CO1 | C3H5ClO
solvent | ether | CCOCC | C4H10O
product | Epoxide Resin | C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.C1C(O1)COCC2=CC=CC=C2 | InChI=1S/C10H12O2.C10H10.C8H8/c1-2-4-9(5-3-1)6-11-7-10-8-12-10;1-3-9-5-7-10(4-2)8-6-9;1-2-8-6-4-3-5-7-8/h1-5,10H,6-8H2;3-8H,1-2H2;2-7H,1H2
